US07557103B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[2-methyl-7-(1-methyl-cyclopropyl)-benzo[b]thiophen-3-yl]-imidazo[1,2-b]pyridazine
A solution of 8-(1-ethyl-propyl)-3-(7-isopropenyl-2-methyl-benzo[b]thiophen-3-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (97 mg, 0.24 mmol) in CH2Cl2 (5 mL) is cooled to 0° C., treated with 1.0 M Et2Zn (1.2 mL, 1.2 mmol) and ClCH2I (176 μL, 2.4 mmol). The reaction is stirred at 0° C. for 30 min, then at RT for 1 h. The reaction is cooled to 0° C., quenched with sat. NH4Cl (10 mL); diluted with H2O (15 mL); extracted with EtOAc (3×30 mL); dried with Na2SO4, filtered and concentrated. The crude material is subjected to the same condition to ensure the conversion is completed. Purification of the crude material using silica gel chromatography gives the title compound (12.4 mg, 0.03 mmol, 12%). 1H NMR (CDCl3): δ 0.80-0.84 (m, 2H), 0.92 (t, J=6.9 Hz, 6H), 0.97-1.11 (m, 2H), 1.51 (s, 3H), 1.79-1.94 (m, 4H), 2.41 (s, 3H), 2.43 (s, 3H), 2.46 (s, 3H), 3.22-3.54 (m, 1H), 6.69 (s, 1H), 7.07 (d, J=7.5 Hz, 1H), 7.21 (t, J=7.5 Hz, 1H), 7.26 (d, J=7.5 Hz, 1H) ppm. ES-MS (m/z): calcd for C26H31N3S (M+H)+: 418.6. found: 418.3.

reactant | 8-(1-ethyl-propyl)-3-(7-isopropenyl-2-methyl-benzo[b]thiophen-3-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.24 mmol, 97 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2C1=C(SC2C)C(=CC=C1)C(=C)C | C25H29N3S
reactant | Et2Zn | 1.2 mmol, 1.0 M, 1.2 mL | [Zn](CC)CC
reactant | ClCH2I | 2.4 mmol, 176 μL | ClCI | CH2ClI
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[2-methyl-7-(1-methyl-cyclopropyl)-benzo[b]thiophen-3-yl]-imidazo[1,2-b]pyridazine | 0.03 mmol, 12.4 mg, 12% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2C1=C(SC2C)C(=CC=C1)C1(CC1)C | C26H31N3S
